**************************************************
* Manufacturer:          Würth Elektronik 
* Kinds:                 Film Capacitor
* Matchcode:             WCAP-FTXH
* Library Type:          LTspice
* Version:               rev24a
* Created/modified by:   Ella
* Date and Time:         5/21/2024
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt FTXH_890414025001CS_0R1uF 1 2
Rser 1 3 0.06225
Lser 2 4 0.00000000991
C1 3 4 0.0000001
Rpar 3 4 25000000000
.ends FTXH_890414025001CS_0R1uF
*******
.subckt FTXH_890414025006CS_0R47uF 1 2
Rser 1 3 0.02263
Lser 2 4 0.00000000668
C1 3 4 0.00000047
Rpar 3 4 75000000000
.ends FTXH_890414025006CS_0R47uF
*******
.subckt FTXH_890414025007CS_0R033uF 1 2
Rser 1 3 0.02
Lser 2 4 0.00000000829
C1 3 4 0.000000033
Rpar 3 4 25000000000
.ends FTXH_890414025007CS_0R033uF
*******
.subckt FTXH_890414025010CS_0R56uF 1 2
Rser 1 3 0.02474
Lser 2 4 0.00000000845
C1 3 4 0.00000056
Rpar 3 4 227272727273
.ends FTXH_890414025010CS_0R56uF
*******
.subckt FTXH_890414026001CS_0R33uF 1 2
Rser 1 3 0.046
Lser 2 4 0.00000000936
C1 3 4 0.00000033
Rpar 3 4 25000000000
.ends FTXH_890414026001CS_0R33uF
*******
.subckt FTXH_890414026003CS_0R47uF 1 2
Rser 1 3 0.03948
Lser 2 4 0.00000000905
C1 3 4 0.00000047
Rpar 3 4 22727272727
.ends FTXH_890414026003CS_0R47uF
*******
.subckt FTXH_890414026004CS_0R56uF 1 2
Rser 1 3 0.03643
Lser 2 4 0.00000001163
C1 3 4 0.00000056
Rpar 3 4 15957446809
.ends FTXH_890414026004CS_0R56uF
*******
.subckt FTXH_890414026005CS_0R68uF 1 2
Rser 1 3 0.04085
Lser 2 4 0.00000001185
C1 3 4 0.00000068
Rpar 3 4 13392857143
.ends FTXH_890414026005CS_0R68uF
*******
.subckt FTXH_890414026007CS_1uF 1 2
Rser 1 3 0.03146
Lser 2 4 0.00000000919
C1 3 4 0.000001
Rpar 3 4 11029411765
.ends FTXH_890414026007CS_1uF
*******
.subckt FTXH_890414026009CS_1R5uF 1 2
Rser 1 3 0.0259
Lser 2 4 0.00000001407
C1 3 4 0.0000015
Rpar 3 4 7500000000
.ends FTXH_890414026009CS_1R5uF
*******
.subckt FTXH_890414026011CS_2R2uF 1 2
Rser 1 3 0.0237
Lser 2 4 0.00000001241
C1 3 4 0.0000022
Rpar 3 4 5000000000
.ends FTXH_890414026011CS_2R2uF
*******
.subckt FTXH_890414027002CS_3R3uF 1 2
Rser 1 3 0.0223
Lser 2 4 0.00000001365
C1 3 4 0.0000033
Rpar 3 4 3409090909
.ends FTXH_890414027002CS_3R3uF
*******
.subckt FTXH_890414027003CS_4R7uF 1 2
Rser 1 3 0.02028
Lser 2 4 0.00000001281
C1 3 4 0.0000047
Rpar 3 4 2272727273
.ends FTXH_890414027003CS_4R7uF
*******
.subckt FTXH_890414027004CS_0R56uF 1 2
Rser 1 3 0.05312
Lser 2 4 0.00000001251
C1 3 4 0.00000056
Rpar 3 4 1595744681
.ends FTXH_890414027004CS_0R56uF
*******
.subckt FTXH_890414027005CS_0R68uF 1 2
Rser 1 3 0.034
Lser 2 4 0.00000001453
C1 3 4 0.00000068
Rpar 3 4 13392857143
.ends FTXH_890414027005CS_0R68uF
*******
.subckt FTXH_890414027006CS_0R82uF 1 2
Rser 1 3 0.04166
Lser 2 4 0.00000001346
C1 3 4 0.00000082
Rpar 3 4 11029411765
.ends FTXH_890414027006CS_0R82uF
*******
.subckt FTXH_890414027007CS_1uF 1 2
Rser 1 3 0.0396
Lser 2 4 0.00000001665
C1 3 4 0.000001
Rpar 3 4 9146341463
.ends FTXH_890414027007CS_1uF
*******
.subckt FTXH_890414027009CS_1R5uF 1 2
Rser 1 3 0.0308
Lser 2 4 0.00000001362
C1 3 4 0.0000015
Rpar 3 4 7500000000
.ends FTXH_890414027009CS_1R5uF
*******
.subckt FTXH_890414027010CS_1R8uF 1 2
Rser 1 3 0.02795
Lser 2 4 0.00000001139
C1 3 4 0.0000018
Rpar 3 4 5000000000
.ends FTXH_890414027010CS_1R8uF
*******
.subckt FTXH_890414028001CS_4R7uF 1 2
Rser 1 3 0.01815
Lser 2 4 0.00000001841
C1 3 4 0.0000047
Rpar 3 4 4166666667
.ends FTXH_890414028001CS_4R7uF
*******
.subckt FTXH_890414028002CS_10uF 1 2
Rser 1 3 0.01129
Lser 2 4 0.00000002326
C1 3 4 0.00001
Rpar 3 4 1595744681
.ends FTXH_890414028002CS_10uF
*******
.subckt FTXH_890414028003CS_6R8uF 1 2
Rser 1 3 0.01526
Lser 2 4 0.00000001612
C1 3 4 0.0000068
Rpar 3 4 750000000
.ends FTXH_890414028003CS_6R8uF
*******
.subckt FTXH_890414025011CS_0R33uF 1 2
Rser 1 3 0.03178
Lser 2 4 0.00000000834
C1 3 4 0.00000033
Rpar 3 4 25000000000
.ends FTXH_890414025011CS_0R33uF
*******
.subckt FTXH_890414025012CS_0R47uF 1 2
Rser 1 3 0.02693
Lser 2 4 0.00000000791
C1 3 4 0.00000047
Rpar 3 4 15950000000
.ends FTXH_890414025012CS_0R47uF
*******
.subckt FTXH_890414025013CS_0R27uF 1 2
Rser 1 3 0.03083
Lser 2 4 0.00000000871
C1 3 4 0.00000027
Rpar 3 4 25000000000
.ends FTXH_890414025013CS_0R27uF
*******
.subckt FTXH_890414026013CS_1R2uF 1 2
Rser 1 3 0.02689
Lser 2 4 0.00000001344
C1 3 4 0.0000012
Rpar 3 4 6250000000
.ends FTXH_890414026013CS_1R2uF
*******
.subckt FTXH_890414027011CS_2R2uF 1 2
Rser 1 3 0.02257
Lser 2 4 0.00000001572
C1 3 4 0.0000022
Rpar 3 4 3400000000
.ends FTXH_890414027011CS_2R2uF
*******
.subckt FTXH_890414026014CS_1uF 1 2
Rser 1 3 0.02747
Lser 2 4 0.00000001117
C1 3 4 0.000001
Rpar 3 4 7500000000
.ends FTXH_890414026014CS_1uF
*******
.subckt FTXH_890414027012CS_1uF 1 2
Rser 1 3 0.03183
Lser 2 4 0.00000001533
C1 3 4 0.000001
Rpar 3 4 7500000000
.ends FTXH_890414027012CS_1uF
*******
.subckt FTXH_890414027013CS_1R2uF 1 2
Rser 1 3 0.02886
Lser 2 4 0.00000001239
C1 3 4 0.0000012
Rpar 3 4 6250000000
.ends FTXH_890414027013CS_1R2uF
*******
.subckt FTXH_890414027014CS_1R8uF 1 2
Rser 1 3 0.02576
Lser 2 4 0.00000001407
C1 3 4 0.0000018
Rpar 3 4 4160000000
.ends FTXH_890414027014CS_1R8uF
*******
.subckt FTXH_890414028005CS_3R3uF 1 2
Rser 1 3 0.02191
Lser 2 4 0.00000001686
C1 3 4 0.0000033
Rpar 3 4 2270000000
.ends FTXH_890414028005CS_3R3uF
*******
.subckt FTXH_890414028006CS_4R7uF 1 2
Rser 1 3 0.01576
Lser 2 4 0.00000001962
C1 3 4 0.0000047
Rpar 3 4 1590000000
.ends FTXH_890414028006CS_4R7uF
*******
.subckt FTXH_890414028007CS_10uF 1 2
Rser 1 3 0.01079
Lser 2 4 0.00000002214
C1 3 4 0.00001
Rpar 3 4 750000000
.ends FTXH_890414028007CS_10uF
*******
.subckt FTXH_890414025003CS_0R22uF 1 2
Rser 1 3 0.04474
Lser 2 4 0.00000000656
C1 3 4 0.00000022
Rpar 3 4 25000000000
.ends FTXH_890414025003CS_0R22uF
*******
